US05922716
1.25 g of 2-ethoxalylamino-1-indanone are added rapidly to a solution of 12.5 g of ammonium acetate in 50 ml of acetic acid brought to reflux under nitrogen. After 18 hours of reflux, the reaction medium is cooled to a temperature in the region of 20° C. The precipitate formed is filtered off, washed copiously with water and dried under a partial vacuum (1 mm Hg; 0.13 kPa) at 50° C. 0.77 g of 1,4-dihydro-5H-indeno[1,2-b]pyrazine-2,3-dione are thereby obtained in the form of a green powder, the melting point of which is above 260° C. (analysis C11H8N2O2 ; 1.18 H2O; % calculated C: 66.00; H: 4.03; N: 13.99; % found C: 65.7; H: 3.9; N: 13.9).

reactant | 2-ethoxalylamino-1-indanone | 1.25 g | C(=O)(C(=O)OCC)NC1C(C2=CC=CC=C2C1)=O | C13H13NO4
reactant | ammonium acetate | 12.5 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1,4-dihydro-5H-indeno[1,2-b]pyrazine-2,3-dione | 0.77 g | N1C=2C(NC(C1=O)=O)=C1CC=CC=C1C2 | C11H8N2O2
